US04009166
To a mixture of 2.9 g of 1-(m-trifluoromethylphenyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine, 25 ml of dimethylformamide and 4.4 g of dimethylformamide diethylacetal was reacted at 145° - 150° C for 5 hours. After the reaction was complete, the solvent was distilled off from the mixture under reduced pressure. The residue thus obtained was diluted with water, extracted with ether and dehydrated. The ether solution was applied on a column of alumina and then eluted with ether. The eluate was concentrated by evaporation to leave a residue, which was then recrystallized from a mixture of ether and petroleum ether to give 0.6 g of 1-(m-trifluoromethylphenyl)-3-ethyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine as colorless prisms, melting at 155° - 157° C.

reactant | 1-(m-trifluoromethylphenyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | 2.9 g | FC(C=1C=C(C=CC1)N1C(NCC2=C1N=CC=C2)=O)(F)F | C14H10F3N3O
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide diethylacetal | 4.4 g | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | water | O | H2O
product | 1-(m-trifluoromethylphenyl)-3-ethyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | 0.6 g | FC(C=1C=C(C=CC1)N1C(N(CC2=C1N=CC=C2)CC)=O)(F)F | C16H14F3N3O
